US09102591B2
2-Chloro-N-((4,4-difluoro-1-(2-(trifluoromethyl)pyrimidin-5-yl)cyclohexyl)methyl)-3-fluorobenzamide
From 2-chloro-3-fluorobenzoic acid and [4,4-Difluoro-1-(2-(trifluoromethyl)pyrimidin-5-yl)cyclohexyl]methanamine. LCMS (MH+): m/z=452.1, tR (minutes, Method F)=3.08

reactant | 2-chloro-3-fluorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | [4,4-Difluoro-1-(2-(trifluoromethyl)pyrimidin-5-yl)cyclohexyl]methanamine | FC1(CCC(CC1)(C=1C=NC(=NC1)C(F)(F)F)CN)F | C12H14F5N3
product | 2-Chloro-N-((4,4-difluoro-1-(2-(trifluoromethyl)pyrimidin-5-yl)cyclohexyl)methyl)-3-fluorobenzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=NC2)C(F)(F)F)C=CC=C1F | C19H16ClF6N3O
